US08183275B2
Benzyl 3-[4-(3-oxopropyl)phenyl]pyridine-2-carboxylate
To 3-[4-(3-hydroxypropyl)phenyl]pyridine-2-carboxylate (245 mg, 0.704 mmol) in dichloromethane (3 ml) and pyridine (357 uL, 3.52 mmol) was added a solution of Dess-Martin periodinane (358 mg, 0.845 mmol) in dichloromethane (3 mL). After stirring at rt for 30 min, the reaction was quenched by addition of a mixture of 15% Na2S2O3 (2 mL) and saturated NaHCO3 (3 mL). The organic layer was separated and the aqueous layer was extracted by ethyl acetate (3×). The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated, and the residue was purified by flash column chromatography on silica gel eluting 10-50% ethyl acetate in hexanes) to afford the title compound. LC-MS: m/e 346 (M+H)+. 1HNMR (CDCl3, 500 MHz): δ 9.86 (1H, t, J=1.5 Hz), 8.68 (1H, dd, J=4.5, 1.7 Hz), 7.76 (1H, dd, J=8.0, 1.7 Hz), 7.48 (1H, dd, J=8.0, 4.5 Hz), 7.30 (3H, m), 7.26 (2H, d, J=8.0 Hz), 7.19 (2H, d, J=8.0 Hz), 7.14 (2H, dd, J=7.5, 2.0 Hz), 5.22 (2H, s), 3.00 (2H, t, J=7.5 Hz), 2.82 (2H, t, 7.5 Hz).

reactant | 3-[4-(3-hydroxypropyl)phenyl]pyridine-2-carboxylate | 0.704 mmol, 245 mg | OCCCC1=CC=C(C=C1)C=1C(=NC=CC1)C(=O)[O-]
reactant | pyridine | 3.52 mmol, 357 uL | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 0.845 mmol, 358 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | Benzyl 3-[4-(3-oxopropyl)phenyl]pyridine-2-carboxylate | O=CCCC1=CC=C(C=C1)C=1C(=NC=CC1)C(=O)OCC1=CC=CC=C1 | C22H19NO3
